US08614327B2
(S)-4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylic acid (600 mg, 1.76 mmol) was dissolved in methanol (10 mL), cooled to 0° C., and treated dropwise with thionyl chloride (840 mg, 515 μL, 7.08 mmol). The reaction mixture was heated at 50° C. over 48 h. The reaction mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (0-60% ethyl acetate in hexane) to obtain (S)-methyl 4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate (300 mg, 48% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.12 (d, J=9.2 Hz, 1H), 7.04 (d, J=2.6 Hz, 1H), 6.97 (dd, J=9.2, 2.7 Hz, 1H), 5.19 (dd, J=9.8, 1.9 Hz, 1H), 4.14-3.99 (m, 2H), 3.69 (s, 3H), 3.11-2.95 (m, 1H), 2.78 (t, J=14.6 Hz, 1H).

reactant | (S)-4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylic acid | 1.76 mmol, 600 mg | FC1(C[C@H](N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)C(=O)O)F | C12H9F5N2O4
reactant | thionyl chloride | 7.08 mmol, 515 μL, 840 mg | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 mL | CO | CH4O
product | (S)-methyl 4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate | 300 mg, 48% yield | FC1(C[C@H](N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)C(=O)OC)F | C13H11F5N2O4
